US07915267B2
4-oxo-N-[(2-{[3-(1H-1,2,4-triazol-3-yl)propyl]oxy}pyridin-4-yl)methyl]-3,4-dihydroquinazoline-2-carboxamide
A suspension of ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate obtained according to the methods described in Journal of Organic Chemistry (1978), 43(23), 4485-7 and the like (25.0 mg, 0.11 mmol), 1-[2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridin-4-yl]methanamine obtained in Reference Example 28 (28.0 mg, 0.069 mmol) and diisopropylethylamine (159 mg, 1.20 mmol) in ethanol (3 mL) was stirred at 80° C. for 15 hr. After cooling the mixture to room temperature, the resulting solid was collected by filtration, and washed with ethanol. 4N Hydrochloric acid and ethyl acetate were added to the crude crystals, and the mixture was stirred at room temperature for 2 hr. Water was added to the mixture, and the aqueous layer was weakly acidified with saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated. The obtained crude crystals were recrystallized from ethanol to give the title compound as a white powder (28.0 mg, 60%).

reactant | ethyl 4-oxo-3,4-dihydro-2-quinazolinecarboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)OCC | C11H10N2O3
reactant | 1-[2-({3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propyl}oxy)pyridin-4-yl]methanamine | C1(=CC=CC=C1)C(N1N=C(N=C1)CCCOC1=NC=CC(=C1)CN)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N5O
reactant | diisopropylethylamine | 1.20 mmol, 159 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-oxo-N-[(2-{[3-(1H-1,2,4-triazol-3-yl)propyl]oxy}pyridin-4-yl)methyl]-3,4-dihydroquinazoline-2-carboxamide | 28.0 mg, 60% | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=NC=C1)OCCCC1=NNC=N1 | C20H19N7O3
